US06191138B1
E1. 2-(3,4-diethoxyphenyl)cyclohex-4-enone
15.0 g of (+/−)-trans-1,2-diethoxy-4-(2-nitrocyclohex-4-enyl)benzene are dissolved in 375 ml of ethanol and added dropwise to 42 ml of 20% strength sodium ethoxide solution. The mixture is stirred at RT for 20 min. and then added dropwise to an ice-cooled solution of 67.5 ml of conc. hydrochloric acid and 1.35 g of urea in 225 ml of water and 170 ml of ethanol. The solution is extracted with water/dichloromethane and the organic phase is dried with sodium sulfate and concentrated under reduced pressure. The residue is chromatographed over silica gel using petroleum ether/ethyl acetate in a ratio of 2/1. Concentration of the appropriate eluate fractions gives 10.33 g (77.1% of Th.) of the title compound as an oil.

reactant | (+/−)-trans-1,2-diethoxy-4-(2-nitrocyclohex-4-enyl)benzene | 15.0 g | C(C)OC1=C(C=C(C=C1)[C@H]1[C@@H](CC=CC1)[N+](=O)[O-])OCC | C16H21NO4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 67.5 ml | Cl | ClH
reactant | urea | 1.35 g | NC(=O)N | CH4N2O
solvent | ethanol | 375 ml | C(C)O | C2H6O
solvent | water | 225 ml | O | H2O
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)cyclohex-4-enone | C(C)OC=1C=C(C=CC1OCC)C1C(CC=CC1)=O | C16H20O3
